US08492425B2
3-hydroxy-5-methyl-1-(7-methoxynaphthalen-2-yl)-1H-pyrazol
2,5-dimethyl-2-(7-methoxynaphthalen-2-yldiazenyl)furan-3-one (3.4 g, 11.48 mmol) dissolved in acetic acid (20 ml) was added dropwise over hydrochloric acid 6N (3.5 ml) and was heated to a temperature of 60° C. The mixture was kept stirring at 60° C. during 2 hours. The solution was cooled, poured over a mixture of water/ice (400 ml) and the solid precipitate was filtered and washed with water. It was dried and a solid crude remained, which was purified by means of crystallization in toluene, thereby resulting in 1.23 g (42%) of 3-hydroxy-5-methyl-1-(7-methoxynaphthalen-2-yl)-1H-pyrazol in the form of a white-greyish coloured solid.

reactant | 2,5-dimethyl-2-(7-methoxynaphthalen-2-yldiazenyl)furan-3-one | 11.48 mmol, 3.4 g | CC1(OC(=CC1=O)C)N=NC1=CC2=CC(=CC=C2C=C1)OC | C17H16N2O3
reactant | hydrochloric acid | 6N, 3.5 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-5-methyl-1-(7-methoxynaphthalen-2-yl)-1H-pyrazol | OC1=NN(C(=C1)C)C1=CC2=CC(=CC=C2C=C1)OC | C15H14N2O2
